* DLY_5V0 -- two-sided delay: BOTH edges are RC-delayed (~20 ns each)
* AutoHV BiCMOS 180 PDK | 5 V domain (NMOS5V0/PMOS5V0, L = 0.50 um)
* Symmetric delay cell: the RC node has no bypass FET, so the rising AND the
* falling edge each charge/discharge through R into the Schmitt trigger.
* R is centered between the rise-tuned (DLYR) and fall-tuned (DLYF) resistors
* so both edges land near 20 ns at the nominal corner (case=0/TT, nom Vdd, 27 C).
* Non-inverting. Methodology / area / PVT: ../REPORT.md, ../CHARACTERIZATION.md.
*
* Port order:  in  out  vdd  gnd
*   .include "<repo-root>/autohv_bicmos180_case.lib"
*   .include "<this-dir>/DLY_5V0.lib"
*   X1 a y vdd 0 DLY_5V0
*
* When several RC cells share one transient deck, add `.option method=gear maxord=2`.

.subckt DLY_5V0 in out vdd gnd
XI1 nIN in vdd vdd PMOS5V0 W=1.15u L=0.5u
XI2 nIN in gnd gnd NMOS5V0 W=0.5u L=0.5u
XR  nIN nC RPOLY_HI L=51.5625u W=0.5u
XC  nC  gnd CMIM_HI L=5.3600u W=5.3600u
XS1 s1 nC gnd gnd NMOS5V0 W=0.5u L=0.5u
XS2 out nC s1 gnd NMOS5V0 W=0.5u L=0.5u
XS3 s2 nC vdd vdd PMOS5V0 W=1.15u L=0.5u
XS4 out nC s2 vdd PMOS5V0 W=1.15u L=0.5u
XS5 vdd out s1 gnd NMOS5V0 W=0.5u L=0.5u
XS6 gnd out s2 vdd PMOS5V0 W=1.15u L=0.5u
.ends DLY_5V0
